US09403835B2
Step 2: [2-(azetidin-3-yloxy)-4-fluoro-phenyl]-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-methanone
A solution of 3-[2-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carbonyl)-5-fluoro-phenoxy]-azetidine-1-carboxylic acid tert-butyl ester (472 mg; 0.91 mmol; 1 eq.) and TFA (4 mL) in DCM (4 mL) was stirred at room temperature for 1 hour then concentrated in vacuo. The residue was taken up in water, the pH was made basic with 5M NaOH and extracted with DCM (2×). The combined organic phase was dried over magnesium sulfate and concentrated in vacuo. The resulting solid was triturated in water and filtered off to afford the title compound (70 mg, 18%) as a white solid. 1H NMR (CDCl3) δ 7.38-7.31 (m, 1H), 6.80-6.72 (m, 1H), 6.38 (dt, J=10.5, 2.0 Hz, 1H), 5.04-4.96 (m, 3H), 4.65 (s, 2H), 3.93-3.87 (m, 2H), 3.79-3.72 (m, 2H), 2.91 (s, 2H), 2.86 (s, 1H), 2.69 (s, 1H), 2.63 (s, 2H). HPLC (max plot) 94.9%, Rt 2.56 min. UPLC/MS: (MS+) 416.2 ([M+H]+).

reactant | 3-[2-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carbonyl)-5-fluoro-phenoxy]-azetidine-1-carboxylic acid tert-butyl ester | 0.91 mmol, 472 mg, 1 eq. | C(C)(C)(C)OC(=O)N1CC(C1)OC1=C(C=CC(=C1)F)C(=O)N1CC=2C(=C3N=C(C(=C(N3N2)C)Cl)C)C1 | C25H27ClFN5O4
reactant | TFA | 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | [2-(azetidin-3-yloxy)-4-fluoro-phenyl]-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-methanone | 70 mg, 18% | N1CC(C1)OC1=C(C=CC(=C1)F)C(=O)N1CC=2C(=C3N=C(C(=C(N3N2)C)Cl)C)C1 | C20H19ClFN5O2
